US08865726B2
To a solution of 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine (5.30 g, 22.8 mmol) and (S)-4-propyloxazolidin-2-one (0.354 g, 2.74 mmol) in dry DMF (10 mL) at ambient temperature was added sodium hydride (0.110 g, 2.74 mmol) and the solution was stirred for 18 hours. Saturated aqueous NH4Cl solution was added and the solids were collected by filtration. Purification of the crude material by normal phase column chromatography, eluting with 1-10% EtOAc/dichloromethane afforded 0.372 g (63%) of (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-propyloxazolidin-2-one as a yellow solid.

reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | 22.8 mmol, 5.30 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | (S)-4-propyloxazolidin-2-one | 2.74 mmol, 0.354 g | C(CC)[C@@H]1NC(OC1)=O | C6H11NO2
reactant | sodium hydride | 2.74 mmol, 0.110 g | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-propyloxazolidin-2-one | 0.372 g, 63% | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2CCC)=O | C12H13BrN4O2
